US09108939B2
A: N-(4-(1-(4-(1,1,1,3,3,3-Hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidine-4-carbonyl)phenyl)acetamide
To a stirred mixture of N-(4-(piperidine-4-carbonyl)phenyl)acetamide (3.82 mmol, 0.94 g) and potassium carbonate (11.45 mmol, 1.582 g) in N-methyl-2-pyrrolidinone (5 mL) was added 2-(4-(bromomethyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (3.82 mmol, 1.286 g). The reaction was stirred at room temperature over the weekend. Methanol (30 mL) was added and the reaction was filtered. The filtrate was purified by strong cation exchange column chromatography to afford the title compound (1.51 g).

reactant | N-(4-(piperidine-4-carbonyl)phenyl)acetamide | 3.82 mmol, 0.94 g | N1CCC(CC1)C(=O)C1=CC=C(C=C1)NC(C)=O | C14H18N2O2
reactant | potassium carbonate | 11.45 mmol, 1.582 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(4-(bromomethyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 3.82 mmol, 1.286 g | BrCC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C10H7BrF6O
reactant | Methanol | 30 mL | CO | CH4O
solvent | N-methyl-2-pyrrolidinone | 5 mL | CN1C(CCC1)=O | C5H9NO
product | N-(4-(1-(4-(1,1,1,3,3,3-Hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidine-4-carbonyl)phenyl)acetamide | 1.51 g | FC(C(C(F)(F)F)(O)C1=CC=C(CN2CCC(CC2)C(=O)C2=CC=C(C=C2)NC(C)=O)C=C1)(F)F | C24H24F6N2O3
